US07253286B2
N6-(2-Methoxyethyl)-4-(3-chloro-4-{[(cyclopropylamino)carbonyl]amino}phenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxamide
4-(3-Chloro-4-{[(cyclopropylamino)carbonyl]amino}phenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxylic acid (200 mg), 2-methoxyethylamine (38 mg), benzotriazol-1-yloxytris (dimethylamino)phosphonium hexafluorophosphate (Bop reagent) (230 mg), triethylamine (0.12 ml) and dimethylformamide (5 ml) were stirred together at room temperature for 14 hours. Water and ethyl acetate were added to the reaction solution for extraction, NH type silica gel was added to the extract, the solvent was distilled off under reduced pressure and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (ethyl acetate). The solvent was distilled off under reduced pressure to obtain 120 mg of the target substance as a solid.

reactant | 4-(3-Chloro-4-{[(cyclopropylamino)carbonyl]amino}phenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxylic acid | 200 mg | ClC=1C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OCCOC)C=CC1NC(=O)NC1CC1 | C23H22ClN3O6
reactant | 2-methoxyethylamine | 38 mg | COCCN | C3H9NO
reactant | benzotriazol-1-yloxytris (dimethylamino)phosphonium hexafluorophosphate | 230 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N6-(2-Methoxyethyl)-4-(3-chloro-4-{[(cyclopropylamino)carbonyl]amino}phenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxamide | COCCNC(=O)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)Cl | C26H29ClN4O6
